US04235775
To a suspension of 2.0 parts of 1-bromomethyl-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine 5-oxide in 20 volume parts of dimethylformamide is added 5 volume parts of 40 weight % aqueous solution of dimethylamine under stirring, and the resulting solution is stirred for 30 minutes at room temperature. After removing the solvent, the crystalline residue is recrystallized from ethyl alcohol to give 8-chloro-1-dimethylaminomethyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine 5-oxide as colorless prisms melting at 217° to 219° C.

reactant | 1-bromomethyl-8-chloro-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine 5-oxide | BrCC1=NN=C2N1C1=C(C(=[N+](C2)[O-])C2=CC=CC=C2)C=C(C=C1)Cl | C17H12BrClN4O
reactant | dimethylamine | CNC | C2H7N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 8-chloro-1-dimethylaminomethyl-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine 5-oxide | ClC=1C=CC2=C(C(=[N+](CC=3N2C(=NN3)CN(C)C)[O-])C3=CC=CC=C3)C1 | C19H18ClN5O
